US04014915
A suspension of 2-hydroxyimino-2-(4-chlorophenyl)acetonitrile (6.75 g.) and dimethylaniline (4.5 g.) in a mixture of dichloromethane (70 ml.), dioxane (10 ml.) and tetrahydrofuran (10 ml.) was added dropwise to a solution of trichloromethyl chloroformate (phosgene dimer) (16 g.) in benzene (22 ml.) under ice-cooling. The mixture was stirred for 5 hours at the same temperature and allowed to stand overnight. A solution of tertbutyl alcohol (8.9 g.) and pyridine (9.6 ml.) in dichloromethane (20 ml.) was added dropwise, under ice-cooling, to the resultant mixture containing 2-chlorocarbonyloxyimino-2-(4-chlorophenyl)acetonitrile. The mixture was stirred for 5 hours at the same temperature and allowed to stand for 48 hours. The reaction mixture was then washed with water, 1N hydrochloric acid, water, a sodium bicarbonate aqueous solution and water, and dried over magnesium sulfate. The solvent was distilled off and n-hexane was added to the residue. An insoluble material was filtered off and the filtrate was concentrated. Petroleum ether was added to the residue and the mixture was allowed to stand to precipitate crystals. The crystals were dissolved in hot petroleum ether and the solution was filtered. The filtrate was cooled to precipitate crystals and the crystals were collected by filtration to give 2-tert-butoxycarbonyloxyimino-2-(4-chlorophenyl)acetonitrile (1.6 g.). These crystals were recrystallized from methanol to give the pure compound (0.7 g.), mp 91° to 92° C.

reactant | 2-hydroxyimino-2-(4-chlorophenyl)acetonitrile | 6.75 g | ON=C(C#N)C1=CC=C(C=C1)Cl | C8H5ClN2O
reactant | dimethylaniline | 4.5 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | trichloromethyl chloroformate | 16 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | 2-chlorocarbonyloxyimino-2-(4-chlorophenyl)acetonitrile | ClC(=O)ON=C(C#N)C1=CC=C(C=C1)Cl | C9H4Cl2N2O2
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
solvent | benzene | 22 ml | C1=CC=CC=C1 | C6H6
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | pyridine | 9.6 ml | N1=CC=CC=C1 | C5H5N
solvent | tertbutyl alcohol | 8.9 g | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-tert-butoxycarbonyloxyimino-2-(4-chlorophenyl)acetonitrile | 1.6 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=C(C=C1)Cl | C13H13ClN2O3
